US09212187B2
Synthesis of 7-[4-(1,3-dioxo-1,3-dihydroisoindol-2-yl)but-1-ynyl]-1-ethyl-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione
Trifluoromethane sulfonic acid 1-ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepine-7-yl ester(0.59 g), 2-(but-3-ynyl)isoindol-1,3-dione(0.3 g), dichlorobis(triphenyl phosphine)palladium (II) (53 mg), copper(I) iodide(29 mg), and triethylamine(0.39 ml) were added to DMF(4 ml). The mixture was heated at 150° C. (microwave reactor) for 10 minutes. The reaction liquid was cooled to room temperature, and subjected to celite filtration. The filtrate was condensed under reduced pressure and the residue was purified by silica gel column chromatography (hexane: ethyl acetate=60:40→30:70). The purified product was condensed under reduced pressure to give the title compound(0.51 g) as a yellowish-white solid.

reactant | Trifluoromethane sulfonic acid 1-ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepine-7-yl ester | 0.59 g | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)OS(=O)(=O)C(F)(F)F | C15H17F3N2O5S
reactant | 2-(but-3-ynyl)isoindol-1,3-dione | 0.3 g | C(CC#C)N1C(C2=CC=CC=C2C1=O)=O | C12H9NO2
reactant | triethylamine | 0.39 ml | C(C)N(CC)CC | C6H15N
catalyst | dichlorobis(triphenyl phosphine)palladium (II) | 53 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 29 mg | [Cu]I
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 7-[4-(1,3-dioxo-1,3-dihydroisoindol-2-yl)but-1-ynyl]-1-ethyl-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 0.51 g | O=C1N(C(C2=CC=CC=C12)=O)CCC#CC1=CC2=C(N(C(C(C(N2C)=O)(C)C)=O)CC)C=C1 | C26H25N3O4
